US09227963B2
2-(5-bromo-6-(tert-butoxycarbonyl)pyridin-2-yl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid
A solution of methyl 1,2,3,4-tetrahydroisoquinoline-8-carboxylate, hydrochloric acid (13.6 g), tert-butyl 3-bromo-6-chloropicolinate (17.4 g) and cesium carbonate (39 g) were stirred together in N,N-dimethylacetamide (110 mL) and heated at 120° C. under nitrogen overnight. The reaction mixture was cooled, diluted with water and extracted with ethyl acetate. The organic layer was washed with brine and the combined aqueous layers were back-extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. Silica gel chromatography using 20-100% ethyl acetate in hexanes provided the title compound.

reactant | methyl 1,2,3,4-tetrahydroisoquinoline-8-carboxylate | C1NCCC2=CC=CC(=C12)C(=O)OC | C11H13NO2
reactant | hydrochloric acid | 13.6 g | Cl | ClH
reactant | tert-butyl 3-bromo-6-chloropicolinate | 17.4 g | BrC=1C(=NC(=CC1)Cl)C(=O)OC(C)(C)C | C10H11BrClNO2
reactant | cesium carbonate | 39 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylacetamide | 110 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2-(5-bromo-6-(tert-butoxycarbonyl)pyridin-2-yl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid | BrC=1C=CC(=NC1C(=O)OC(C)(C)C)N1CC2=C(C=CC=C2CC1)C(=O)O | C20H21BrN2O4
